* d:\Learning\20240222-AnalogICNew\AnalogICNew\Chapter04A_01.fig.asc
M1 Vout Vin 0 0 NMOS
M2 Vout Vout VDD VDD PMOS
VDD VDD 0 0
Vin Vin 0 0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\liyuxuan\AppData\Local\LTspice\lib\cmp\standard.mos
.backanno
.end
