* d:\Learning\20240222-AnalogICNew\AnalogICNew\Chapter04A_01a.fig.asc
M1 Vout Vin 0 0 NMOS
VDD VDD 0 0
Vin Vin 0 0
Vout Vout 0 0
M2 NC_01 NC_02 NC_03 VDD PMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\liyuxuan\AppData\Local\LTspice\lib\cmp\standard.mos
.backanno
.end
